US09255097B2
Preparation 13B: [1-(4-chloro-1-ethyl-6-oxo-1,6-dihydro-pyrimidin-2-yl)-piperidin-4-yl]-carbamic acid tert-butyl ester
A solution of 2,6-dichloro-3-ethyl-3H-pyrimidin-4-one (320 mg, 1.64 mmol), DIEA (423 mg, 3.28 mmol) and (tert-butoxy)-N-(4-piperidyl)carboxamide (328 mg, 1.64 mmol) in DMF (10 mL) was heated to 120° C. for 1 h. The solvent was concentrated in vacuo and the residue was purified by silica chromatography (1:5, EA:PE) to give 210 mg (36%) of the title compound as a yellow solid. 1H NMR (400 MHz, CDCl3): δ 1.25-1.32 (m 2H), 1.35 (t, J=7.2 Hz, 3H), 1.96-2.02 (m, 2H), 2.98-3.06 (m, 2H), 3.70 (br, 1H), 4.30 (q, J=5.2 Hz, 2H), 4.44 (br, 1H), 4.57-4.61 (m, 2H), 5.95 (s, 1H). [M+H] Calc'd for C16H25ClN4O3, 357, 359. Found, 357, 359.

reactant | 2,6-dichloro-3-ethyl-3H-pyrimidin-4-one | 1.64 mmol, 320 mg | ClC1=NC(=CC(N1CC)=O)Cl | C6H6Cl2N2O
reactant | DIEA | 3.28 mmol, 423 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | (tert-butoxy)-N-(4-piperidyl)carboxamide | 1.64 mmol, 328 mg | C(C)(C)(C)OC(=O)NC1CCNCC1 | C10H20N2O2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | [1-(4-chloro-1-ethyl-6-oxo-1,6-dihydro-pyrimidin-2-yl)-piperidin-4-yl]-carbamic acid tert-butyl ester | 210 mg, 36% | C(C)(C)(C)OC(NC1CCN(CC1)C=1N(C(C=C(N1)Cl)=O)CC)=O | C16H25ClN4O3
